US05925624
(trans)-1-[2-[(4-Aminocyclohexyl)amino]-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl]-1-deoxy-N-ethyl-β-D-ribofuranuronamide hydrochloride
A solution of (trans)-1-[2-[(4-Aminocyclohexyl)amino]-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl]-deoxy-N-ethyl-β-D-ribofuranuronamide (11.05 g, 0.0184 mole) in ethanol (120 ml) was stirred during the addition of 1M hydrogen chloride in ether (18.4 ml, 0.0184 mole). An initial precipitate redissolved on complete addition and the mixture was stirred for 15 min before ether (400 ml) was added. The resulting precipitate was stirred for a further 15 min then collected by filtration under nitrogen and dried in vacuo at 60° over phosphorus pentoxide. The solid (10.1 g) was crystallised from isopropanol (120 ml) to give the title compound (7.95 g). The product had MH+ =601, nmr(δ,DMSO-d6) includes 1.0(t,3H), 1.2-1.5(m,4H), 1.9-2.1(m,4H), 2.9-3.1(m,1H), 3.0-3.3(m,2H), 3.6-3.8(m,1H), 3.9-4.2(m,2H), 4.1-4.2(m,1H), 4.25(s,1H), 4.5-4.6(m,1H), 4.6-4.7(m,1H), 5.4-5.7(m,2H), 5.8(d,1H), 6.2-6.4(m,1H), 7.1-7.4(m,10H), 7.95(bs,1H), 7.8-8.2(m,3H).

reactant | (trans)-1-[2-[(4-Aminocyclohexyl)amino]-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl]-deoxy-N-ethyl-β-D-ribofuranuronamide | 0.0184 mole, 11.05 g | N[C@@H]1CC[C@H](CC1)NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C32H40N8O4
reactant | hydrogen chloride | 1M | Cl | ClH
reactant | ether | 0.0184 mole, 18.4 ml | CCOCC | C4H10O
reactant | ether | 400 ml | CCOCC | C4H10O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | (trans)-1-[2-[(4-Aminocyclohexyl)amino]-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl]-1-deoxy-N-ethyl-β-D-ribofuranuronamide hydrochloride | 7.95 g | Cl.N[C@@H]1CC[C@H](CC1)NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C32H40N8O4.ClH/c1-2-34-30(43)27-25(41)26(42)31(44-27)40-18-36-24-28(38-32(39-29(24)40)37-22-15-13-21(33)14-16-22)35-17-23(19-9-5-3-6-10-19)20-11-7-4-8-12-20;/h3-12,18,21-23,25-27,31,41-42H,2,13-17,33H2,1H3,(H,34,43)(H2,35,37,38,39);1H/t21-,22-,25-,26+,27-,31+;/m0./s1
